* Phase D: deterministic mismatch corner check (MM_SIGMA mechanism).
*
* Two identical NMOS5V0 in saturation at Vds=3, Vgs=2. M1 gets MM_SIGMA=+3,
* M2 gets MM_SIGMA=-3. With AGAUSS HSPICE convention (X is 3-sigma, true
* 1-sigma = X/3), each instance's DVTH_MM lands at exactly +/-X = +/-13.5
* mV / sqrt(W*L/um^2) = +/-13.5 mV / sqrt(10) = +/-4.27 mV at W=10u L=1u.
*
* For NMOS5V0 at this bias:
*   Vth_TT_eff ~= 0.97 V (from Phase E gm probe)
*   Vds_overdrive = 2 - 0.97 = 1.03 V
*   gm/ID (empirical, Phase E) ~= 1.687 V^-1
*
* Pair Vth shift: dVth(M1) - dVth(M2) = +4.27 - (-4.27) = 8.54 mV
* Expected log(I1/I2): (gm/ID) * dVth_pair = 1.687 * 8.54e-3 = 0.03522 (3.52 %)
*
* Sign: M1 has +3-sigma DVTH (higher Vth), so M1's current is LOWER.
* Therefore log(I1/I2) is NEGATIVE. Magnitude ~1.44 %.
*
* Tolerance: +/-10 % of magnitude (allows for BSIM3 non-linear sensitivity
* effects and quadratic terms at this bias).
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=0
.param SH_ON=0

Vd1 d1 0 3
Vg1 g1 0 2
Vd2 d2 0 3
Vg2 g2 0 2

XM1 d1 g1 0 0 NMOS5V0 W=10u L=1u M=1 MM_SIGMA=+3
XM2 d2 g2 0 0 NMOS5V0 W=10u L=1u M=1 MM_SIGMA=-3

.control
op
let i1 = -i(Vd1)
let i2 = -i(Vd2)
let logr = log(i1/i2)
print i1 i2 logr
* Expected logr ~ -0.03522 (-1.44 %); tolerance +/- 0.0016 (= +/-10 % of 3.52 %)
* Lower bound: -0.0429, upper bound: -0.0351.
if (logr > -0.0429) & (logr < -0.0351)
  echo TRAN_OK
else
  echo MM_SIGMA_DETERMINISTIC_FAIL
end
quit
.endc
.end
